US06313116B1
2-Bromo-4-methoxybenzothiazole
To a solution of 2-amino-4-methoxybenzothiazole (1.5 g) and potassium bromide (3.5 g) in sulphuric acid (1.25M, 50 ml) at 0° C. was added sodium nitrite (0.86 g) over a period of 1 hr. The reaction was allowed to warm to room temperature and stirred for 2 hrs, before being extracted with dichloromethane (3×50 ml). The combined organic extracts were dried over magnesium sulphate (5 g), and the solvent removed in vacuo to yield an off white solid. This was purified by flash chromatography (eluent 50% ethyl acetate/hexane) to yield the title compound as a white solid (1.6 g). TLC Ff 0.30 (20% ethyl acetate in hexane)

reactant | 2-amino-4-methoxybenzothiazole | 1.5 g | NC=1SC2=C(N1)C(=CC=C2)OC | C8H8N2OS
reactant | potassium bromide | 3.5 g | [Br-].[K+]
reactant | sodium nitrite | 0.86 g | N(=O)[O-].[Na+]
solvent | sulphuric acid | 1.25M, 50 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Bromo-4-methoxybenzothiazole | 1.6 g | BrC=1SC2=C(N1)C(=CC=C2)OC | C8H6BrNOS
